US06635640B2
3-[3-Methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-ylmethylene]-4-piperidin-4-yl-1,3-dihydroindol-2-one
A mixture of 4-piperidin-4-yl-1,3-dihydroindol-2-one (86.5 mg, 0.4 mmol) and 3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde (88.9 mg, 0.4 mmol) in ethanol (2 mL) was stirred at room temperature for 4 days. The reaction was concentrated and the residue was column chromatographed to give 54 mg (32%) of the title compound as a yellow solid.

reactant | 4-piperidin-4-yl-1,3-dihydroindol-2-one | 0.4 mmol, 86.5 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 3-methyl-4-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.4 mmol, 88.9 mg | CC1=C(NC=C1C(=O)N1CCOCC1)C=O | C11H14N2O3
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[3-Methyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-ylmethylene]-4-piperidin-4-yl-1,3-dihydroindol-2-one | 54 mg, 32% | CC1=C(NC=C1C(=O)N1CCOCC1)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O | C24H28N4O3
